US04824951
2-(3-Chlorophenyl)-N-(1-ethyl-2-pyrrolidinylmethyl)-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride [1:2]
A solution of 2-(3-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (5.76 g, 0.020 mole), 1,1'-carbonyldiimidazole (3.24 g, 0.020 mole), and anhydrous tetrahydrofuran (250 ml) was stirred at room temperature with a stream of nitrogen bubbling through for 2 hrs. The nitrogen flow was stopped and a solution of 2-(aminomethyl)-1-ethyl pyrrolidine (2.56 g, 0.02 mole) in dry tetrahydrofuran (50 ml) was added. The solution was stoppered and stirred at room temperature over the weekend. The reaction was concentrated in vacuo and partitioned between ethyl acetate (100 ml) and 5% potassium hydroxide solution (50 ml). The layers were separated and the aqueous portion washed with ethyl acetate (50 ml), water (25 ml), brine (25 ml), dried over sodium sulfate, and concentrated in vacuo. The solid residue was converted to the dihydrochloride salt and crystallized from isopropyl alcohol-diethyl ether. Recrystallization from isopropyl alcohol-isopropyl ether gave 1.38 g (15%) of an off-white solid, mp 186°-190° C. with decomposition.

reactant | 2-(3-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.020 mole, 5.76 g | ClC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.020 mole, 3.24 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-(aminomethyl)-1-ethyl pyrrolidine | 0.02 mole, 2.56 g | NCC1N(CCC1)CC | C7H16N2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 2-(3-Chlorophenyl)-N-(1-ethyl-2-pyrrolidinylmethyl)-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride | 1.38 g, 15% | Cl.ClC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)NCC1N(CCC1)CC | InChI=1S/C21H24ClN5O.ClH/c1-2-26-11-5-8-17(26)13-24-19(28)14-27-20(15-6-3-7-16(22)12-15)25-18-9-4-10-23-21(18)27;/h3-4,6-7,9-10,12,17H,2,5,8,11,13-14H2,1H3,(H,24,28);1H
